* Full Adder, CMOS 0.18u
.Include "D:\AUC\Uni\Fall 25\Microelectronics\Project\Saif and adham\CMOS 0.18\MOSFET_models_0p5_0p18-3.inc"

* Power Supply
VDD No1 0 DC 5V

*Inputs, testing DC
*Va   A    0   DC 5
*Vb   B    0   DC 0
*Vcin Cin  0   DC 5


* Input pulses
Va A 0 pulse(0 5 0 5n 5n 40n 100n)
Vb B 0 pulse(0 5 0 5n 5n 20n 50n)
Vcin Cin 0 pulse(0 5 0 5n 5n 10n 20n)

* Inverters
* InvA
Mpmos1 NotA A No1 No1 PMOS0P18 L=0.18u W=0.9u AD=0.486p AS=0.486p PD=2.88u PS=2.88u
Mnmos1 NotA A 0 0 NMOS0P18 L=0.18u W=0.9u AD=0.486p AS=0.486p PD=2.88u PS=2.88u

* InvB
Mpmos2 NotB B No1 No1 PMOS0P18 L=0.18u W=0.9u AD=0.486p AS=0.486p PD=2.88u PS=2.88u
Mnmos2 NotB B 0 0 NMOS0P18 L=0.18u W=0.9u AD=0.486p AS=0.486p PD=2.88u PS=2.88u

* InvCin
Mpmos3 NotCin Cin No1 No1 PMOS0P18 L=0.18u W=0.9u AD=0.486p AS=0.486p PD=2.88u PS=2.88u
Mnmos3 NotCin Cin 0 0 NMOS0P18 L=0.18u W=0.9u AD=0.486p AS=0.486p PD=2.88u PS=2.88u

* PUN - S
* A & notB & Cin
Mpmos4 mo4 A No1 No1 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos5 mo5 NotB mo4 mo4 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos6 S Cin mo5 mo5 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u

*notA & B & Cin
Mpmos7 mo7 NotA No1 No1 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos8 mo8 B mo7 mo7 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos9 S Cin mo8 mo8 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u

* A & B & notCin
Mpmos10 mo10 A No1 No1 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos11 mo11 B mo10 mo10 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos12 S NotCin mo11 mo11 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u

* notA & notB & notCin
Mpmos13 mo13 NotA No1 No1 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos14 mo14 NotB mo13 mo13 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u
Mpmos15 S NotCin mo14 mo14 PMOS0P18 L=0.18u W=5.4u AD=2.916p AS=2.916p PD=11.88u PS=11.88u

* PDN - S
Mnmos4 S A N1 N1 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos5 S NotB N1 N1 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos6 S Cin N1 N1 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos7 N1 NotA N2 N2 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos8 N1 B N2 N2 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos9 N1 Cin N2 N2 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos10 N2 A N3 N3 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos11 N2 B N3 N3 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos12 N2 NotCin N3 N3 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos13 N3 NotA 0 0 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos14 N3 NotB 0 0 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mnmos15 N3 NotCin 0 0 NMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u

* PUN - Cout
Mpmos16 mo16 NotA No1 No1 PMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mpmos17 Cout NotB mo16 mo16 PMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mpmos18 mo18 NotCin No1 No1 PMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mpmos19 Cout NotA mo18 mo18 PMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mpmos20 mo20 B No1 No1 PMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u
Mpmos21 Cout NotCin mo20 mo20 PMOS0P18 L=0.18u W=3.6u AD=1.944p AS=1.944p PD=8.28u PS=8.28u

* PDN - Cout
Mnmos16 Cout NotA N4 N4 NMOS0P18 L=0.18u W=2.7u AD=1.458p AS=1.458p PD=6.48u PS=6.48u
Mnmos17 Cout NotB N4 N4 NMOS0P18 L=0.18u W=2.7u AD=1.458p AS=1.458p PD=6.48u PS=6.48u
Mnmos18 N4 NotA N5 N5 NMOS0P18 L=0.18u W=2.7u AD=1.458p AS=1.458p PD=6.48u PS=6.48u
Mnmos19 N4 NotCin N5 N5 NMOS0P18 L=0.18u W=2.7u AD=1.458p AS=1.458p PD=6.48u PS=6.48u
Mnmos20 N5 NotB 0 0 NMOS0P18 L=0.18u W=2.7u AD=1.458p AS=1.458p PD=6.48u PS=6.48u
Mnmos21 N5 NotCin 0 0 NMOS0P18 L=0.18u W=2.7u AD=1.458p AS=1.458p PD=6.48u PS=6.48u

* Transient Analysis
.Tran 0.1n 80n
.Print Tran V(A) V(B) V(Cin) V(S) V(Cout)

* Timing measurements
.MEASURE Tran TpLH_Cout TRIG V(Cin) val=2.5 rise=2 targ V(Cout) val=2.5 rise=1
.MEASURE Tran TpHL_Cout TRIG V(Cin) val=2.5 fall=2 targ V(Cout) val=2.5 fall=1
.MEASURE Tran TpLH_Sum TRIG V(A) val=2.5 rise=1 targ V(S) val=2.5 rise=1
.MEASURE Tran TpHL_Sum TRIG V(A) val=2.5 fall=1 targ V(S) val=2.5 fall=1
.MEASURE Tran Tpd_Avg_Sum PARAM='(TpLH_Sum+TpHL_Sum)/2'
.MEASURE Tran Tpd_Avg_Cout PARAM='(TpLH_Cout+TpHL_Cout)/2'

* Power measurements
.MEASURE Tran PowerAvg avg I(VDD)*V(No1) from 0 to 100n
.MEASURE Tran Energy INTEG I(VDD)*V(No1) from 0 to 100n
.MEASURE Tran s_000 FIND V(s) at=80n
.MEASURE Tran s_011 FIND V(s) at=68n
.MEASURE Tran s_010 FIND V(s) at=60n
.MEASURE Tran s_001 FIND V(s) at=50n
.MEASURE Tran s_101 FIND V(s) at=45n
.MEASURE Tran s_100 FIND V(s) at=40n
.MEASURE Tran s_110 FIND V(s) at=20n
.MEASURE Tran s_111 FIND V(s) at=6n

.MEASURE Tran cout_000 FIND V(Cout) at=80n
.MEASURE Tran cout_011 FIND V(Cout) at=68n
.MEASURE Tran cout_010 FIND V(Cout) at=60n
.MEASURE Tran cout_001 FIND V(Cout) at=50n
.MEASURE Tran cout_101 FIND V(Cout) at=45n
.MEASURE Tran cout_100 FIND V(Cout) at=40n
.MEASURE Tran cout_110 FIND V(Cout) at=20n
.MEASURE Tran cout_111 FIND V(Cout) at=6n


.End
